US05049572
Preparation of N-(3-Carboxyphenyl)-3,5-Di-t-Butyl-4-Hydroxybenzamide
A solution of 8.6g (0.063 mole) of m-aminobenzoic acid in 200 ml of 1,2-dimethoxyethane was mixed with a suspension of 8.0g (0.0298 mole) of 3,5-di-t-butyl-4-hydroxybenzoyl chloride in 100 ml of 1,2-dimethoxyethane, and the mixture was stirred at 25° C. for one hour. The reaction mixture was then filtered. The filtrate was thereafter diluted with 300 ml of water and cooled to give the crude product as a white solid. This material was recrystallized from a mixture of ethanol and water to give 5.6g of white solid N-(3-carboxyphenyl)-3,5-di-t-butyl-4-hydroxybenzamide, m.p. 279-280° C. Analysis: Calculated for C22H27NO4 : %C, 71.5; %H, 7.4; %N, 3.8; Found: %C, 72.0; %H, 7.3; %N, 3.7.

reactant | m-aminobenzoic acid | 0.063 mole, 8.6g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
reactant | 3,5-di-t-butyl-4-hydroxybenzoyl chloride | 0.0298 mole, 8.0g | C(C)(C)(C)C=1C=C(C(=O)Cl)C=C(C1O)C(C)(C)C | C15H21ClO2
solvent | 1,2-dimethoxyethane | 200 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
product | N-(3-Carboxyphenyl)-3,5-Di-t-Butyl-4-Hydroxybenzamide | 5.6g | C(=O)(O)C=1C=C(C=CC1)NC(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C22H27NO4
